US07420001B2
To 300 mg of 3-methyl-4-(3-nitro-phenyl)-benzofuran-2-carboxylic acid tert-butyl ester was added 4 mL of TFA/dichloromethane (1:1). The solution was stirred at room temperature for 5 h. The solvents were removed under vacuum and the residue was triturated with ether. Filtration gave 232 mg (92% yield) of 3-methyl-4-(3-nitro-phenyl)-benzofuran-2-carboxylic acid as white solid.

reactant | 3-methyl-4-(3-nitro-phenyl)-benzofuran-2-carboxylic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C20H19NO5
reactant | TFA dichloromethane | 4 mL | C(=O)(C(F)(F)F)O.ClCCl
product | 3-methyl-4-(3-nitro-phenyl)-benzofuran-2-carboxylic acid | 232 mg, 92% yield | CC1=C(OC2=C1C(=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-])C(=O)O | C16H11NO5
